US07595338B2
1-(2,6-Difluorophenyl)cyclopropanecarbonitrile (5.42 g) was hydrolyzed at ambient temperature with an aqueous solutions of 5N sodium hydroxide (20 mL), 55% tetrabutylammonium hydrogensulfate (0.5 mL) and 30% hydrogen peroxide (5 mL) in toluene (5 mL) for 39 hours. The prepared semi-solid reaction mixture was diluted with ethyl acetate and the phases were separated. The aqueous phase was neutralized with 5% hydrochloric acid and extracted twice with ethyl acetate. The combined organic extracts were washed with 5% hydrochloric acid, then brine, and dried over anhydrous sodium sulfate. Filtration and evaporation gave 1-(2,6-difluorophenyl)cyclopropanecarboxylic acid amide as light-brown solid (4.98 g, 84% yield). M.p. 136.7-137.6° C. (from ethyl acetate). GC/MS: m/z 197 (purity 97.5%, RT 9.85 min.). 1H-NMR (DMSO-d6): δ 7.43-7.34 (m, 1H), 7.10-7.01 (m, 2H), 6.96 (br s, 1H), 6.64 (br s, 1H), 1.50-1.46 (m, 2H), 1.00-0.97 (m, 2H). 1H-NMR (CDCl3): δ 7.61-7.26 (m, 1H), 6.98-6.90 (m, 2H), 5.44 (br s, 2H), 1.79-1.74 (m, 2H), 1.17-1.12 (m, 2H). 13C-NMR (DMSO-d6): 173.4, 164.2, 160.9, 130.3, 116.5, 112.1, 19.05, 15.8.

reactant | 1-(2,6-Difluorophenyl)cyclopropanecarbonitrile | 5.42 g | FC1=C(C(=CC=C1)F)C1(CC1)C#N | C10H7F2N
reactant | sodium hydroxide | 5N, 20 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 5 mL | OO | H2O2
catalyst | tetrabutylammonium hydrogensulfate | 0.5 mL | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-difluorophenyl)cyclopropanecarboxylic acid amide | 4.98 g, 84% yield | FC1=C(C(=CC=C1)F)C1(CC1)C(=O)N | C10H9F2NO
